US07524852B2
From 2,4-dichloro-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine hydrochloride prepared according to Reference Example 1 and cyclopropylcarbonyl chloride, 2,4-dichloro-6-cyclopropylcarbonyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine was prepared in the same way as Process Step 1 of Example 1. Further, 2,4-dichloro-6-cyclopropylcarbonyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine was allowed to sequentially react with 2-chloro-4-fluorobenzylamine and N-(2-aminoethyl)(tert-butoxy)carboxamide in the same way as Process Steps 2 and 3 of Example 1, to yield 4-(2-chloro-4-fluorobenzylamino)-6-cyclopropylcarbonyl-2-(2-tert-butoxycarbonylaminoethylamino)-5,6,7,8-tetrahydropyrido [4,3-d]pyrimidine.

reactant | 2,4-dichloro-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine hydrochloride | Cl.ClC=1N=C(C2=C(N1)CCNC2)Cl
reactant | cyclopropylcarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
reactant | 2,4-dichloro-6-cyclopropylcarbonyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine | ClC=1N=C(C2=C(N1)CCN(C2)C(=O)C2CC2)Cl | C11H11Cl2N3O
reactant | 2-chloro-4-fluorobenzylamine | ClC1=C(CN)C=CC(=C1)F | C7H7ClFN
reactant | N-(2-aminoethyl)(tert-butoxy)carboxamide | NCCNC(=O)OC(C)(C)C | C7H16N2O2
product | 4-(2-chloro-4-fluorobenzylamino)-6-cyclopropylcarbonyl-2-(2-tert-butoxycarbonylaminoethylamino)-5,6,7,8-tetrahydropyrido [4,3-d]pyrimidine | ClC1=C(CNC=2C3=C(N=C(N2)NCCNC(=O)OC(C)(C)C)CCN(C3)C(=O)C3CC3)C=CC(=C1)F | C25H32ClFN6O3
